US08859574B2
To a solution of 5-chloro-N2-(2-fluoro-5-methyl-4-(piperidin-4-yl)phenyl)-N4-(5-methyl-1H-pyrazol-3-yl)pyrimidine-2,4-diamine (45 mg, 0.1 mmol) and pyrimidine-5-carbaldehyde (32 mg, 0.3 mmol) in DCM (1.5 mL) was added NaBH(OAc)3 (64 mg, 0.3 mmol), followed by addition of AcOH (12 uL). After stirring at room temperature in a sealed vial for 16 h, the reaction was quenched with EtOAc (50 mL). The reaction mixture was sequentially washed with water (10 mL), brine (5 mL), dried over Na2SO4 and concentrated in vacuo. The resulting residue was purified by silica chromatography (0-10% MeOH in EtOAc gradient with 1% NH3 in MeOH additive) to give 5-Chloro-N2-(2-fluoro-5-methyl-4-(1-(pyrimidin-5-ylmethyl)piperidin-4-yl)phenyl)-N4-(5-methyl-1H-pyrazol-3-yl)pyrimidine-2,4-diamine as an off white solid; 1H NMR (400 MHz, CD3OD) δ 9.09 (s, 1H), 8.81 (s, 2H), 8.00 (s, 1H), 7.73 (d, J=8.4 Hz, 1H), 6.99 (d, J=13.2 Hz, 1H), 6.23 (br s, 1H), 3.65 (s, 2H), 3.03 (m, 2H), 2.76 (m, 1H), 2.27 (s, 3H), 2.25 (s, 3H), 2.25 (m, 2H), 1.80-1.68 (m, 4H); ESMS m/z 508.2 (M+H+).

reactant | 5-chloro-N2-(2-fluoro-5-methyl-4-(piperidin-4-yl)phenyl)-N4-(5-methyl-1H-pyrazol-3-yl)pyrimidine-2,4-diamine | 0.1 mmol, 45 mg | ClC=1C(=NC(=NC1)NC1=C(C=C(C(=C1)C)C1CCNCC1)F)NC1=NNC(=C1)C | C20H23ClFN7
reactant | pyrimidine-5-carbaldehyde | 0.3 mmol, 32 mg | N1=CN=CC(=C1)C=O | C5H4N2O
reactant | NaBH(OAc)3 | 0.3 mmol, 64 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | AcOH | 12 uL | CC(=O)O | C2H4O2
solvent | DCM | 1.5 mL | C(Cl)Cl | CH2Cl2
product | 5-Chloro-N2-(2-fluoro-5-methyl-4-(1-(pyrimidin-5-ylmethyl)piperidin-4-yl)phenyl)-N4-(5-methyl-1H-pyrazol-3-yl)pyrimidine-2,4-diamine | ClC=1C(=NC(=NC1)NC1=C(C=C(C(=C1)C)C1CCN(CC1)CC=1C=NC=NC1)F)NC1=NNC(=C1)C | C25H27ClFN9
